### PR TITLE
[Merged by Bors] - feat(SetTheory/Cardinal/Basic): `lift (aleph' o) = aleph' (lift o)`

### PR DESCRIPTION
**Pull request by vihdzp**
plus some lemmas on `ℵ₁` and `lift`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by vihdzp** [comment]
There's 200 lines of commented out code about `bit0` and `bit1` that isn't applicable in Lean 4 anymore. Can I remove those in a separate PR? I had to delete some whitespace so that the linter wouldn't complain about the file line count.

File: Mathlib/SetTheory/Cardinal/Aleph.lean [hunk 1]
```diff
@@ -361,6 +371,30 @@ theorem aleph0_lt_aleph_one : ℵ₀ < ℵ₁ := by
 theorem countable_iff_lt_aleph_one {α : Type*} (s : Set α) : s.Countable ↔ #s < ℵ₁ := by
   rw [← succ_aleph0, lt_succ_iff, le_aleph0_iff_set_countable]
 
+@[simp]
+theorem aleph1_le_lift {c : Cardinal.{u}} : ℵ₁ ≤ lift.{v} c ↔ ℵ₁ ≤ c := by
+  rw [← Ordinal.lift_one.{u, v}, ← lift_aleph, lift_le]
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Cardinal/Aleph.lean:376]: Can you make all these proofs more robust by doing
```suggestion
  simpa using lift_le (a := ℵ₁) (b := c)
```
and similar below? You might not have to specify `b`

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer merge
